US05166367
7-[3-[[(2,3-Dihydro-7-phenylmethoxy-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one
2,3-Dihydro-7-benzyloxy-1,4-benzodioxin-2-methanamine (1.47 g, 5.42 mmole), 7-(3-chloropropoxy)coumarin (1.30 g, 5.45 mmole), diisopropylethylamine (4.0 ml, 23 mmole) and sodium iodide (4.17 g, 28 mmole) were combined in 150 ml of DMF and heated at 80°-100° C. for 2 days under a nitrogen atmosphere. The solvent was then removed and replaced with dichloromethane. The mixture was washed with an equal volume of saturated aqueous sodium bicarbonate, with saturated aqueous sodium chloride, dried over magnesium sulfate, filtered, and concentrated in vacuum. The residue was column chromatographed on silica gel using first dichloromethane, then 0.5% methanol/dichloromethane, and finally 1% methanol/dichloromethane as eluant. The fractions containing material with Rf=0.26 on silica gel tlc (2.5% methanol/chloroform) were combined and concentrated in vacuum and the residue crystallized from 50 ml of isopropanol with the addition of 4.0 ml of 4N isopropanolic HCl to give 0.66 g of title compound as an off-white solid, monohydrochloride, m.p. 179°-181° C.

reactant | 2,3-Dihydro-7-benzyloxy-1,4-benzodioxin-2-methanamine | 5.42 mmole, 1.47 g | C(C1=CC=CC=C1)OC=1C=CC2=C(OC(CO2)CN)C1 | C16H17NO3
reactant | 7-(3-chloropropoxy)coumarin | 5.45 mmole, 1.30 g | ClCCCOC1=CC=C2C=CC(OC2=C1)=O | C12H11ClO3
reactant | diisopropylethylamine | 23 mmole, 4.0 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium iodide | 28 mmole, 4.17 g | [I-].[Na+]
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 7-[3-[[(2,3-Dihydro-7-phenylmethoxy-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one | 0.66 g | C1(=CC=CC=C1)COC=1C=CC2=C(OC(CO2)CNCCCOC2=CC3=C(C=CC(O3)=O)C=C2)C1 | C28H27NO6
